US06894200B2
Synthesis of 6-bromo-1,2-difluoronaphthalene
Zinc (7.18 g, 110 mmol) was added in two portions (4.74 g and 2.44 g) to a stirred mixture of 20.1 g (71.4 mmol) of 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene, 45 ml of THF, 20.1 g of NH4Cl, and 90 ml of NH4OH that was cooled in an ice bath. The mixture was allowed to warm slowly to room temperature. After 5 hours reaction time, the zinc was removed by filtration. The phases were separated, and the aqueous layer was extracted three times with hexanes. The combined organic phase was washed twice with brine and dried over MgSO4. The MgSO4 was filtered off, and the solvent was removed under vacuum. Crude 6-bromo-1,2-difluoronaphthalene (16.7 g) containing 15% impurities (estimated) remained. The estimated yield of the crude 6-bromo-1,2-difluoronaphthalene was 86%. The crude yellow solid was sublimed at 70-80° C. Off-white needles (14.5 g, 59.5 mmol, 83% yield) were collected.

reactant | 6-bromo-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene | 71.4 mmol, 20.1 g | BrC=1C=C2C=CC(C(C2=CC1)(F)F)(F)F | C10H5BrF4
reactant | NH4Cl | 20.1 g | [NH4+].[Cl-]
reactant | NH4OH | 90 ml | [NH4+].[OH-]
catalyst | Zinc | 110 mmol, 7.18 g | [Zn] | Zn
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 6-bromo-1,2-difluoronaphthalene | 59.5 mmol, 14.5 g, 83% yield | BrC=1C=C2C=CC(=C(C2=CC1)F)F | C10H5BrF2
